US03940418
A mixture of 15 parts of methyl 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylate, 100 parts of aqueous 10 percent sodium hydroxide solution and 120 parts of methanol is refluxed and stirred for 3 hours. The mixture is then cooled and acidified with concentrated hydrochloric acid. The solid which forms is separated by filtration, washed with water, and dried to give 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylic acid melting at about 282°C. with evolution of gas.

reactant | methyl 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylate | ClC=1C=CC2=C(CCC=3C(=NN(C23)C2=CC=CC=C2)C(=O)OC)C1 | C19H15ClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 7-chloro-1-phenyl-4,5-dihydro-1H-benz[g]indazole-3-carboxylic acid | ClC=1C=CC2=C(CCC=3C(=NN(C23)C2=CC=CC=C2)C(=O)O)C1 | C18H13ClN2O2
